US04895840
2-[4-(Methylsulfonyl)phenoxy]ethanol
A solution of 14.1 g (0.77 mole) of 2-[4-(methylthio)phenoxy]ethanol (from Preparation 35) and 31.2 g (0.18 mole) of m-chlorophenylbenzoic acid in 800 ml of methylene chloride was stirred at room temperature overnight. A saturated, aqueous solution (300 ml) of sodium bisulfite was added, and the mixture was stirred at room temperature for 0.5 hr. The phases were separated, the mthylene chloride solution was dried over magnesium sulfate, and the volume reduced to approximately 100 ml in vacuo. n-Hexane was added until the solution became cloudy, and 9.40 g (56.8%) of the product precipitated as a white, crystalline solid, m.p. 96°-98° C.

reactant | 2-[4-(methylthio)phenoxy]ethanol | 0.77 mole, 14.1 g | CSC1=CC=C(OCCO)C=C1 | C9H12O2S
reactant | m-chlorophenylbenzoic acid | 0.18 mole, 31.2 g | ClC=1C(=C(C(=O)O)C=CC1)C1=CC=CC=C1 | C13H9ClO2
reactant | sodium bisulfite | 300 ml | S([O-])(O)=O.[Na+]
solvent | methylene chloride | 800 ml | C(Cl)Cl | CH2Cl2
product | 2-[4-(Methylsulfonyl)phenoxy]ethanol | CS(=O)(=O)C1=CC=C(OCCO)C=C1 | C9H12O4S
